US03971797
Step A: Preparation of 5-chloromethyl-8-methyl-2-oxo-4H-M-dioxino[4,5-C]pyridine hydrochloride
To a solution of 0.01 mole of 2-methyl-3-hydroxy-4-hydroxymethyl-5-chloromethylpyridine in 50 ml. chloroform and 50 ml. of pyridine is added at 0°-5°C. a solution of 0.011 mole of phosgene in benzene. The mixture is allowed to warm to room temperature and is stirred overnight. The mixture is then concentrated in vacuo and excess saturated sodium bicarbonate solution is added. The precipitate is collected on a filter and sucked dry.

reactant | 2-methyl-3-hydroxy-4-hydroxymethyl-5-chloromethylpyridine | 0.01 mole | CC1=NC=C(C(=C1O)CO)CCl | C8H10ClNO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 0.011 mole | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-chloromethyl-8-methyl-2-oxo-4H-M-dioxino[4,5-C]pyridine hydrochloride | Cl.ClCC1=C2C(=C(N=C1)C)OC(OC2)=O | InChI=1S/C9H8ClNO3.ClH/c1-5-8-7(4-13-9(12)14-8)6(2-10)3-11-5;/h3H,2,4H2,1H3;1H
